US05137895
A cooled (0° C.) suspension of 60% sodium hydride/oil dispersion (1.40 g, 0.035 mole) in anhydrous dimethylformamide (60 ml) under nitrogen was treated in portions with 4-amino-5-chloro-2-hydroxybenzoic acid methyl ester (6.05 g, 0.030 mole) and stirred for 30 minutes at room temperature. 2-Chloro-N,N-diethylacetamide (5.40 g, 0.036 mole) was added, and the mixture was stirred at 100°-110° C. for 3 hours until gas chromatography indicated absence of 4-amino-5-chloro-2-hydroxybenzoic acid methyl ester. The solution was cooled and added to ice water (350 ml), then extracted with ether (3×200 ml). The combined organic solution was dried (magnesium sulfate) and concentrated in vacuo. Filtration through alumina (eluted with 3% methanol/methylene chloride) and trituration from petroleum ethers (30°-60°) afforded 8.66 g (92%) of 4-amino-5-chloro-2-[2-(diethylamino)-2-oxoethoxy]benzoic acid methyl ester as a colorless solid; mp 97.5° -99.5° C. (ethyl acetate/hexane).

reactant | sodium hydride | [H-].[Na+]
reactant | 4-amino-5-chloro-2-hydroxybenzoic acid methyl ester | 0.030 mole, 6.05 g | COC(C1=C(C=C(C(=C1)Cl)N)O)=O | C8H8ClNO3
reactant | 2-Chloro-N,N-diethylacetamide | 0.036 mole, 5.40 g | ClCC(=O)N(CC)CC | C6H12ClNO
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 4-amino-5-chloro-2-[2-(diethylamino)-2-oxoethoxy]benzoic acid methyl ester | 8.66 g, 92% | COC(C1=C(C=C(C(=C1)Cl)N)OCC(=O)N(CC)CC)=O | C14H19ClN2O4
